US05672597
2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetic acid
There was added 30 g (0.12 mol) of ethyl 2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetate to a solution of 9.56 g of sodium hydroxide dissolved in 120 ml of water, and the mixture was stirred for 2 hours at room temperature and washed with ethyl acetate. The alkaline phase was separated and acidified with conc. HCl under cooling with ice, and the solvent was removed under reduced pressure. The residue was dissolved in ethanol and the insoluble substance was removed by filtration. The filtrate was removed under reduced pressure, and the residue was dissolved in chloroform and dried over anhydrous sodium sulfate. Then the solvent was removed under reduced pressure to give 18.36 g of white solid. The solid was recrystallized from ethanol-n-hexane (1:1) to give 15.0 g of the titled compound.

reactant | ethyl 2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetate | 0.12 mol, 30 g | C(C)OC(=O)NCCS(=O)CC(=O)OCC | C9H17NO5S
reactant | sodium hydroxide | 9.56 g | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
product | 2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetic acid | 18.36 g | C(C)OC(=O)NCCS(=O)CC(=O)O | C7H13NO5S
